US05219860
Triethylamine (74 ml, 0.58 mol) was added dropwise, over 1 hour, to a stirred solution of di-tert-butyldicarbonate (125 g, 0.57 mol) and bis(2-chloroethyl)amine hydrochloride (85 g, 0.48 mol) in dichloromethane (600 ml). After 1 hour more triethylamine (6 ml, 0.04 mol) was added, and the mixture stirred overnight, under nitrogen. The solvent was evaporated and the resulting oil taken up in ether (500 ml) and washed with water (500 ml). The organic phase was separated and the aqueous layer extracted with ether (500 ml). The ethereal layers were combined, dried (MgSO4) and evaporated in vacuo. The crude residue was chromatographed in 1:1 petrol:ether, to give N-tert-butyloxycarbonylbis (2-chloroethyl)amine (102 g, 88%) as a pale yellow oil. N.M.R. (CDCl3) δ 1.48 (9H, s), 3.65 (4H, m). m/z (CI, NH3), 242/244 (M+1), 205, 203, 188, 186, 168, 106, 92.

reactant | Triethylamine | 0.58 mol, 74 ml | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyldicarbonate | 0.57 mol, 125 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | bis(2-chloroethyl)amine hydrochloride | 0.48 mol, 85 g | Cl.ClCCNCCCl
solvent | dichloromethane | 600 ml | ClCCl | CH2Cl2
catalyst | triethylamine | 0.04 mol, 6 ml | C(C)N(CC)CC | C6H15N
product | N-tert-butyloxycarbonylbis (2-chloroethyl)amine | 102 g, 88% | C(C)(C)(C)OC(=O)N(CCCl)CCCl | C9H17Cl2NO2
